US06593333B1
4-[3-(3,4-Dimethoxybenzamido)-4-methylanilino]-6,7-dimethoxyquinoline hydrochloride
4-Chloro-6,7-dimethoxyquinoline (315 mg) and N-(2-methyl-5-aminophenyl)-3,4-dimethoxybenzamide (443 mg) were stirred together in isopropanol (10 ml) and heated to 85° C. for 18 hours. After cooling to room temperature the precipitated solid was isolated and washed with isohexane to yield the title compound as a solid (260 mg, 36%); NMR: 2.32 (s, 3H), 3.82 (s, 6H), 3.97 (s, 3H), 3.99 (s, 3H), 6.75 (m, 1H), 7.07 (m, 1H), 7.25 (m, 1H), 7.46 (m, 2H), 7.51 (m, 1H), 7.58 (m, 1H), 7.64 (m, 1H), 8.1 (s, 1H), 8.36 (m, 1H), 9.85 (s, 1H), 10.62 (s, 1H); m/s: M+H+ 474.

reactant | 4-Chloro-6,7-dimethoxyquinoline | 315 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | N-(2-methyl-5-aminophenyl)-3,4-dimethoxybenzamide | 443 mg | CC1=C(C=C(C=C1)N)NC(C1=CC(=C(C=C1)OC)OC)=O | C16H18N2O3
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 4-[3-(3,4-Dimethoxybenzamido)-4-methylanilino]-6,7-dimethoxyquinoline hydrochloride | 260 mg, 36% | Cl.COC=1C=C(C(=O)NC=2C=C(NC3=CC=NC4=CC(=C(C=C34)OC)OC)C=CC2C)C=CC1OC | InChI=1S/C27H27N3O5.ClH/c1-16-6-8-18(13-21(16)30-27(31)17-7-9-23(32-2)24(12-17)33-3)29-20-10-11-28-22-15-26(35-5)25(34-4)14-19(20)22;/h6-15H,1-5H3,(H,28,29)(H,30,31);1H
